Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac cath ___

 
History of Present Illness:
Mr. ___ is a ___ yo w/ no PMH who is presenting with chest
tightness. 

The chest tightness began around 10 am in the morning. He has
previously had some intermittent chest pain that would go away 
on
its own. The current pain felt like a pressure or a plate was
pressing down on his chest and radiating to his back. He felt
short of breath, weak, and had a little nausea, no vomiting with
this episode.  He had teeth pain, no jaw pain. This pain did not
go away so he presented to the ___ for evaluation. There
they found that he had a troponin elevation and they sent him to
___ for further evaluation. He had a full dose aspirin and was
started on a heparin drip prior to transfer. He says his chest
pain dissipated around ___ pm upon presentation to the OSH. 

In our ___ the patient had stable VS, anxious affect, and no 
signs
of volume overload. His ECG showed NSR w/ normal intervals, no
elevations, depressions notable. 

- Labs/studies notable for: a troponin to 1.4, elevated LDL to
157, and HA1c of 5.5 WBC to 15.1. 

- Patient was continued on heparin and given a 1x 0.5 mg Ativan
dose. 

On the floor the patient confirms the above history. He says he
does not go to the doctor on ___ regular basis. He had a bad
experience getting an emergency appendectomy as a child and now
gets very anxious in hospitals and is concerned about whatever
intervention we are going to take. 

Of note he also notes occasional color changes in his hands to
white and blue. He says this is worse with the cold. About once 
a
month he gets achy joints that goes away after about a day. He
has never had any rashes. He has never gone to a doctor for 
this.
He also gets daily headaches that he drinks coffee for or takes
Excedrin. 

On ROS he denies fever, chills, dizziness, lightheadedness,
shortness of breath, cough, problems laying flat, poor exercise
tolerance, nausea, vomiting, diarrhea, constipation, urinary
frequency, burning with urination. 
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Dyslipidemia

2. CARDIAC HISTORY
- CORONARIES - unknown
- PUMP - unknown 
- Rhythm: sinus 

3. OTHER PAST MEDICAL HISTORY
- none
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
=================================
VS: 97.6 PO 153 / 83 70 20 97 RA 
GENERAL: NAD
___: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
===========================
VS: 97.9 PO 144 / 80 64 17 98 ra 
O2 sat: 94% O2 delivery: RA 
GENERAL: NAD, laying in bed with wife at bedside
___: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs; JVP at 5-6cm at 45
degrees
PULM: CTAB, no wheezes, rales, rhonchi
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
==================

___ 09:50PM BLOOD WBC-15.1* RBC-5.56 Hgb-16.8 Hct-49.0 
MCV-88 MCH-30.2 MCHC-34.3 RDW-12.8 RDWSD-41.2 Plt ___
___ 09:50PM BLOOD Neuts-75.9* Lymphs-12.2* Monos-9.3 
Eos-1.6 Baso-0.5 Im ___ AbsNeut-11.48* AbsLymp-1.84 
AbsMono-1.41* AbsEos-0.24 AbsBaso-0.07
___ 04:20AM BLOOD ___ PTT-51.4* ___
___ 09:50PM BLOOD Glucose-110* UreaN-16 Creat-0.9 Na-142 
K-4.1 Cl-105 HCO3-21* AnGap-16
___ 09:50PM BLOOD cTropnT-1.40*
___ 04:20AM BLOOD cTropnT-2.40*
___ 10:18AM BLOOD cTropnT-1.52*
___ 04:20AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.1
___ 09:50PM BLOOD Triglyc-160* HDL-43 CHOL/HD-5.4 
LDLcalc-157*
___ 09:50PM BLOOD %HbA1c-5.5 eAG-111

IMAGING:
-----------

TTE ___
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. There is no evidence for an atrial
septal defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal
cavity size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the mid
anteroseptum and distal anterior and lateral walls and apex (see 
schematic) and preserved/normal
contractility of the remaining segments. Overall left 
ventricular systolic function is low normal.
Quantitative 3D volumetric left ventricular ejection fraction is 
55 %. There is no resting left
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion.
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The
aortic arch diameter is normal with a mildly dilated descending 
aorta. The aortic valve leaflets (3) are
mildly thickened. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve
leaflets are mildly thickened with no mitral valve prolapse. 
There is mild [1+] mitral regurgitation. The
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
are mildly thickened. There is mild [1+]
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no
pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and mild
regional dysfunction c/w LAD disease, with borderline ejection 
fraction. Normal right ventricular
size and free wall systolic function. Mild mitral and tricuspid 
regurgitation.

CARDIAC ECHO ___:
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel and is normal. This vessel
bifurcates into the Left Anterior Descending and Left Circumflex 
systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
a 40% stenosis in the mid segment. There are several segments 
with mild irregularity and 30% stenosis
in the mid segment.
The ___ Diagonal, arising from the proximal segment, is a medium 
caliber vessel and is normal.
The ___ Diagonal, arising from the proximal segment, is a large 
caliber vessel. There is a 90% stenosis
in the proximal segment with associated thrombus.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel and is normal.
The Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel with mild
irregularities.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.

Findings
• Single vessel coronary artery disease.
• Successful PCI with drug-eluting stent of the second diagonal 
coronary artery.
Recommendations
• ASA 81mg per day indefinitely.
• Plavix 75mg/day for minimum 12 months
• Secondary prevention of CAD
• Further management as per primary cardiology team.

 
Brief Hospital Course:
========================
TRANSITIONAL ISSUES 
========================
[] Had STEMI with DES placed to ___ diagonal, started on 
ASA/Plavix
[] Found to be hypertensive and started on metoprolol, ACEi

========================
BRIEF SUMMARY
========================

Mr. ___ is a ___ yo w/ no PMH who is presenting with chest 
pressure and elevated troponins. 

He initially had no EKG changes but started having evolving ST 
elevations in leads 1, AVL. As such, he was taken for cath and 
found to have a 90% second diagonal lesion (large caliber 
vessel) with superimposed thrombus treated with PCI and a 
drug-eluting stent. He was also found to have non obstructive 
___ disease in his LAD. An ECHO showed a preserved EF with 
mild LVH and mild regional wall dysfunction.

He was discharged to home on medical therapy and will follow up 
with his PCP and new cardiologist. 

================================
PROBLEM-BASED SUMMARY 
================================

#STEMI
#HTN
Has HLD, untreated previously per patient preference and obesity
that are likely contributing. Initiatialy without EKG changes
until around 7AM on ___ when he developed borderline ST
elevations in I,AVL consistent with evolving lateral infarct. 
Patient was managed with heparin, ASA, atorva, metop, heparin 
gtt. Troponins
peaked at 2.40. Underwent cath ___ with DES placed in diagonal 
for 90% occlusion. Patient discharged on ASA, atorva 80, Plavix,
metop. Had BPs in the 150s-160s so Lisinopril was added. Will 
follow
up with ___ Cardiology in ___. 

#Joint pains
Patient describes color changes in fingers but when he gets 
warm,
not cold (inconsistent with Reynauds). PCP ___ as outpatient.

# CODE: Full
# CONTACT: HCP: wife, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
============
ST elevation myocardial infarction with drug eluting stent 
placed in diagonal

Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had chest pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You had a heart attack, and underwent a procedure called 
"cardiac catheterization" to have a stent placed to open a 
blocked blood vessel in your heart.
- You were started on new medications for your heart and blood 
pressure. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor at ___ 
if your weight goes up more than 3 lbs.  Discharge weight: 208 
lbs
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
 

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___